US04181800
2-[3-{4-(3-tert-butoxycarbonylamino-3-methoxycarbonylpropoxy)phenylglyoxyloylamino}-2-oxo-1-azetidinyl]-2-(2-thienyl)acetic acid (0.480 g.) was dissolved in methanol (3 ml.), and to the solution, there was added 1 N aqueous sodium hydroxide (2 ml.) under ice-cooling. The mixture was stirred at the same temperature for 7 hours while adjusting to pH 9.0 to 9.5 with 1 N aqueous sodium hydroxide. After the reaction, the reaction mixture was adjusted to pH 7.0 with dilute hydrochloric acid and evaporated to dryness under reduced pressure on a water bath. The resultant residue was dissolved in a small amount of water, and the aqueous solution was adjusted to pH 5.5 with dilute hyrochloric acid and then washed with ethyl acetate. The aqueous solution was adjusted to pH 4.0 to 4.5 with dilute hydrochloric acid and then extracted with ethyl acetate. This extract was evaporated to dryness under reduced pressure to give 2-[3-{4-(3-tert-butoxycarbonylamino-3-carboxypropoxy) phenylglyoxyloylamino}-2 -oxo-1-azetidinyl]-2-(2-thienyl) acetic acid (0.350 g.).

reactant | 2-[3-{4-(3-tert-butoxycarbonylamino-3-methoxycarbonylpropoxy)phenylglyoxyloylamino}-2-oxo-1-azetidinyl]-2-(2-thienyl)acetic acid | 0.480 g | C(C)(C)(C)OC(=O)NC(CCOC1=CC=C(C=C1)N(C1C(N(C1)C(C(=O)O)C=1SC=CC1)=O)C(C=O)=O)C(=O)OC | C27H31N3O10S
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | 2-[3-{4-(3-tert-butoxycarbonylamino-3-carboxypropoxy) phenylglyoxyloylamino}-2 -oxo-1-azetidinyl]-2-(2-thienyl) acetic acid | 0.350 g | C(C)(C)(C)OC(=O)NC(CCOC1=CC=C(C=C1)N(C1C(N(C1)C(C(=O)O)C=1SC=CC1)=O)C(C=O)=O)C(=O)O | C26H29N3O10S
